US07326715B2
A: 4-Hydroxy-6-(3-trifluoromethylphenyl)-pyrimidine-2-carboxylic acid methyl ester
To methanol (10 ml) at 0° C. was added thionyl chloride (500 ul). The mixture was stirred for 30 minutes then 4-benzyloxy-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile (300 mg) was added and the reaction was heated to reflux for five hours. Solvent was evaporated under reduced pressure to yield crude product. Purification of the resulting residue by flash chromatography on silica afforded product 4-hydroxy-6-(3-trifluoromethylphenyl)-pyrimidine-2-carboxylic acid methyl ester (104 mg).

reactant | thionyl chloride | 500 ul | S(=O)(Cl)Cl | Cl2OS
reactant | 4-benzyloxy-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 300 mg | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C19H12F3N3O
reactant | methanol | 10 ml | CO | CH4O
product | 4-Hydroxy-6-(3-trifluoromethylphenyl)-pyrimidine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC(=N1)O)C1=CC(=CC=C1)C(F)(F)F | C13H9F3N2O3
